US06127354
At 0° C., trifluoroacetic acid (4 ml) was added to a solution of N-((1R)-2-(biphenyl-4-yl)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)ethyl)-N-methylcarbamic acid tert-butyl ester (910 mg, 1.90 mmol) in dichloromethane (4 ml). The reaction mixture was stirred for 3 h at 0° C. A saturated solution of sodium hydrogen carbonate (8 ml) was added. Solid sodium hydrogen carbonate was added, until pH 7 was obtained. Water was added, until a clear solution was obtained. The phases were separated. The aqueous phase was extracted with dichloromethane (2×30 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude produduct was purified by flash chromatogrphy on silica (60 g), using dichloromethane/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 674 mg of (2R)-3-(biphenyl-4-yl)-N-methyl-2-(methylamino)-N-(2-(2-thienyl)ethyl)propionamide.

reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-((1R)-2-(biphenyl-4-yl)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 1.90 mmol, 910 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)C(N(CCC=1SC=CC1)C)=O)=O | C28H34N2O3S
reactant | sodium hydrogen carbonate | 8 ml | C(O)([O-])=O.[Na+]
reactant | Water | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (2R)-3-(biphenyl-4-yl)-N-methyl-2-(methylamino)-N-(2-(2-thienyl)ethyl)propionamide | 674 mg | C1(=CC=C(C=C1)C[C@H](C(=O)N(CCC=1SC=CC1)C)NC)C1=CC=CC=C1 | C23H26N2OS
